US09085540B2
To a mixture of tert-butyl 3-hydroxypyrrolidine-1-carboxylate (1 g) and N,N-dimethylformamide (30 mL) was added 55% oily sodium hydride (233 mg) under ice-cooling. After stirring for 30 minutes under ice-cooling, 3,5-dichloro-6-ethylpyrazine-2-carboxamide (1.18 g) was added thereto, followed by further stirring for 1 hour under ice-cooling. The reaction mixture was poured into ice water, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform) to obtain tert-butyl 3-[(5-carbamoyl-6-chloro-3-ethylpyrazin-2-yl)oxy]pyrrolidine-1-carboxylate (795 mg) as a pale yellow solid.

reactant | tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 1 g | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | sodium hydride | 233 mg | [H-].[Na+]
reactant | 3,5-dichloro-6-ethylpyrazine-2-carboxamide | 1.18 g | ClC=1C(=NC(=C(N1)Cl)CC)C(=O)N | C7H7Cl2N3O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-[(5-carbamoyl-6-chloro-3-ethylpyrazin-2-yl)oxy]pyrrolidine-1-carboxylate | 795 mg | C(N)(=O)C=1N=C(C(=NC1Cl)OC1CN(CC1)C(=O)OC(C)(C)C)CC | C16H23ClN4O4
